US09340556B2
To a suspension of 4-methoxybenzyl 5-chloro-1-cyclopropyl-6,7-bis((4-methoxy benzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylate (18 g, 27.4 mmol) in a mixture of Methanol (120 mL) and Water (60.0 mL) was added potassium hydroxide (3.08 g, 54.9 mmol) portionwise. The resulting mixture was stirred at 90° C. for 3 h. LCMS indicated completion of the reaction. The reaction mixture was cooled down to r.t. and concentrated, and was then diluted with water and adjusted pH to 1 using 2 N HCl (aq.). The precipitates were collected by filtration and dried to afford 5-chloro-1-cyclopropyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (12.6 g, 23.51 mmol, 86% yield) as pale yellow solid. LCMS: [M+H]+: 536.3.

reactant | 4-methoxybenzyl 5-chloro-1-cyclopropyl-6,7-bis((4-methoxy benzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylate | 27.4 mmol, 18 g | ClC1=C2C(C(=CN(C2=CC(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)C1CC1)C(=O)OCC1=CC=C(C=C1)OC)=O | C37H34ClNO8
reactant | potassium hydroxide | 54.9 mmol, 3.08 g | [OH-].[K+]
solvent | Methanol | 120 mL | CO | CH4O
solvent | Water | 60.0 mL | O | H2O
product | 5-chloro-1-cyclopropyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 23.51 mmol, 12.6 g, 86% yield | ClC1=C2C(C(=CN(C2=CC(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)C1CC1)C(=O)O)=O | C29H26ClNO7
